US06423716B1
4-(4-Pyrazolo[3,4-d]pyrimidinyl)-1-piperazinecarboxylic acid tert-butyl ester
A dibromomethane suspension (5 mL) of commercially available 4-aminopyrazolo[3,4-d]pyrimidine (420.8 mg, 3.11 mmol) was heated to 80° C., and isoamyl nitrite (0.43 mL, 3.20 mmol) was added thereto, followed by stirring at the same temperature for 3 hours. Isoamyl nitrite (0.43 mL, 3.20 mmol) was further added thereto, followed by heating under reflux for 3.5 hours, and then the insoluble matter was removed by filtration. The filtrate was concentrated, the resulting residue was dissolved in dimethylformamide (5 mL), and then triethylamine (2.00 mL, 14.3 mmol) and N-tert-butoxycarbonylpiperazine (1.00 g, 5.37 mmol) were added thereto, followed by stirring at room temperature overnight. After the reaction solution was concentrated, the resulting residue was purified by silica gel column chromatography to give the target compound (20.4 mg, 0.07 mmol).

reactant | dibromomethane | 5 mL | BrCBr | CH2Br2
reactant | 4-aminopyrazolo[3,4-d]pyrimidine | 3.11 mmol, 420.8 mg | NC1=C2C(=NC=N1)NN=C2 | C5H5N5
reactant | isoamyl nitrite | 3.20 mmol, 0.43 mL | N(=O)OCCC(C)C | C5H11NO2
reactant | Isoamyl nitrite | 3.20 mmol, 0.43 mL | N(=O)OCCC(C)C | C5H11NO2
reactant | triethylamine | 14.3 mmol, 2.00 mL | C(C)N(CC)CC | C6H15N
reactant | N-tert-butoxycarbonylpiperazine | 5.37 mmol, 1.00 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
product | 4-(4-Pyrazolo[3,4-d]pyrimidinyl)-1-piperazinecarboxylic acid tert-butyl ester | 0.07 mmol, 20.4 mg, Yield: 2% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2C(=NC=N1)NN=C2 | C14H20N6O2
